US04235996
Cis-1,4-Dimethoxy-9,10-dihydro-9,10-anthracenedicarboxaldehyde
One gram of 1,4-dimethoxy-9,10-dihydro-9,10-ethanoanthracene-11,12-diol, is suspended in 30 ml. of an aqueous solution containing 0.77 g. of potassium periodate and one ml. of ethanol. After stirring at room temperature for 24 hours the insoluble material is removed by filtration, washed well with water and dried leaving a yellow product, m.p. 129°-132° C.

reactant | 1,4-dimethoxy-9,10-dihydro-9,10-ethanoanthracene-11,12-diol | One gram | COC1=CC=C(C=2C3C4=CC=CC=C4C(C12)C(C3O)O)OC | C18H18O4
reactant | potassium periodate | I(=O)(=O)(=O)[O-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | Cis-1,4-Dimethoxy-9,10-dihydro-9,10-anthracenedicarboxaldehyde | COC1=CC=C(C=2[C@H](C3=CC=CC=C3[C@H](C12)C=O)C=O)OC | C18H16O4
